US07304081B2
Step 3. 7-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}-4,4-dimethyl-1-oxa-7-azaspiro[4.4]nonane
A mixture of tert-butyl 2,3,3-trimethyl-1-oxa-6-azaspiro[3.4]octane-6-carboxylate (25.0 mg, 0.0000979 mol) and tert-butyl 4,4-dimethyl-1-oxa-7-azaspiro[4.4]nonane-7-carboxylate (25.0 mg, 0.0000979 mol) was treated with 1 mL of TFA at rt for 30 min. The volatiles were removed in-vacuo and the resultant TFA salt was used directly in next step. To a mixture of the above made TFA salt in N,N-dimethylformamide (0.50 mL, 0.0064 mol) were added 1-(4-chlorophenyl)cyclopropanecarboxylic acid (38.5 mg, 0.000196 mol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (104 mg, 0.000235 mol), followed by N,N-diisopropylethylamine (0.0853 mL, 0.000490 mol). The mixture was stirred at rt for 2 h and then the product was isolated and purified by RP-HPLC. LCMS (M+H) 334.2.

reactant | tert-butyl 2,3,3-trimethyl-1-oxa-6-azaspiro[3.4]octane-6-carboxylate | 0.0000979 mol, 25.0 mg | CC1OC2(C1(C)C)CN(CC2)C(=O)OC(C)(C)C | C14H25NO3
reactant | tert-butyl 4,4-dimethyl-1-oxa-7-azaspiro[4.4]nonane-7-carboxylate | 0.0000979 mol, 25.0 mg | CC1(CCOC12CN(CC2)C(=O)OC(C)(C)C)C | C14H25NO3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N,N-dimethylformamide | 0.0064 mol, 0.50 mL | CN(C=O)C | C3H7NO
reactant | 1-(4-chlorophenyl)cyclopropanecarboxylic acid | 0.000196 mol, 38.5 mg | ClC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9ClO2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.000235 mol, 104 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.000490 mol, 0.0853 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 7-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}-4,4-dimethyl-1-oxa-7-azaspiro[4.4]nonane | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1CC2(C(CCO2)(C)C)CC1 | C19H24ClNO2
